US09108938B2
PdOAc2 (22 mg, 0.1 mmol), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)-biphenyl (53 mg, 0.13 mmol) (DavePhos), cesium carbonate (880 mg, 2.70 mmol) and potassium trifluoro(vinyl)borate (145 mg, 1.1 mmol) were mixed. THF (10 ml), water (3 ml) and 5-bromo-2-(1,1-difluoroethyl)pyrimidine (200 mg, 0.897 mmol) was added. Degassed for 20 minutes, with argon. The resulting mixture was capped and heated to 100° C., for 30 min in microwave oven. The reaction mixture was partitioned between EtOAc (20 mL) and H2O (10 mL). The aq. layer extracted with EtOAc (2×10 mL) and the combined organic layers washed with brine (10 mL), dried (Na2SO4) and concentrated. The reaction was purified by column chromatography on silica gel (petroleum ether: EtOAc=1:0 to 0:1) to afford 2-(1,1-difluoroethyl)-5-vinylpyrimidine (114 mg, 75% yield). 1H NMR (CDCl3 500 MHz): δ 8.88 (s, 2H), 6.73 (m, 1H), 6.02 (d, 1H), 5.61 (d, 1H), 2.10 (t, 2H).

reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)-biphenyl | 0.13 mmol, 53 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | cesium carbonate | 2.70 mmol, 880 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium trifluoro(vinyl)borate | 1.1 mmol, 145 mg | [B-](C=C)(F)(F)F.[K+]
reactant | 5-bromo-2-(1,1-difluoroethyl)pyrimidine | 0.897 mmol, 200 mg | BrC=1C=NC(=NC1)C(C)(F)F | C6H5BrF2N2
solvent | water | 3 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(1,1-difluoroethyl)-5-vinylpyrimidine | 114 mg, 75% yield | FC(C)(F)C1=NC=C(C=N1)C=C | C8H8F2N2
